US05859051
Step A: Preparation of 3-allyloxy-(2-ethyl-2-oxoethoxy)benzene
A solution of 3-allyloxyphenol (1.19 g), 2-bromoacetophenone (1.0 g) and potassium carbonate (1.10 g) in 2-butanone (15 ml) was refluxed for four hours. The mixture was partioned between 0.2N HCl and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, concentrated in vacuo. Column Chromatography (silica gel 60, 50% methylene chloride in hexane) gave the title compound.

reactant | 3-allyloxyphenol | 1.19 g | C(C=C)OC=1C=C(C=CC1)O | C9H10O2
reactant | 2-bromoacetophenone | 1.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 0.2N | Cl | ClH
solvent | 2-butanone | 15 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-allyloxy-(2-ethyl-2-oxoethoxy)benzene | C(C=C)OC=1C=C(C=CC1)OCC(=O)CC | C13H16O3
